US05360802
Step 4: 5-Cyclohexyl-1,3-dihydro-1-methyl-3(R,S)-[(benzyloxycarbonyl)amino]-2H-1,4-benzodiazepin-2-one
A solution of 5-cyclohexyl-1,3-dihydro-3(R,S)-[(benzyloxycarbonyl)amino]-2H- 1,4-benzodiazepin-2-one (1.1 g, 2.8 mol) in dimethylformamide (13 ml), under an atmosphere of nitrogen, was treated with sodium hydride (117 mg of a 55-60% dispersion in mineral oil, 2.8 mmol) in one portion, at -10° C. After 30 min at -10° C., iodomethane (174 μl, 2.8 mmol) was added in one portion and the solution allowed to reach 0° C. over 1 h. The solvent was then removed in vacuo and the crude residue partitioned between water (100 ml) and dichloromethane (100 ml). The organic phase was separated and the aqueous phase extracted with dichloromethane (2×100 ml). The combined organic layers were washed with brine, dried (MgSO4) and evaporated. The residue was chromatographed on silica gel, using 1:1 petrol:ethyl acetate as the eluant, to afford the title compound (0.75 g, 66%) as a white solid. mp 205°-207° C. 1H NMR (360 MHz, CDCl3) δ 1.03-2.04 (10H, m), 2.76 (1H, m), 3.36 (3H, s), 5.10 (3H, m), 6.52 (1H, d, J=8 Hz), 7.25-7.55 (9H, m).

reactant | 5-cyclohexyl-1,3-dihydro-3(R,S)-[(benzyloxycarbonyl)amino]-2H- 1,4-benzodiazepin-2-one | 2.8 mol, 1.1 g | C1(CCCCC1)C1=NC(C(NC2=C1C=CC=C2)=O)NC(=O)OCC2=CC=CC=C2 | C23H25N3O3
reactant | sodium hydride | [H-].[Na+]
reactant | iodomethane | 2.8 mmol, 174 μl | IC | CH3I
solvent | dimethylformamide | 13 ml | CN(C=O)C | C3H7NO
product | 5-Cyclohexyl-1,3-dihydro-1-methyl-3(R,S)-[(benzyloxycarbonyl)amino]-2H-1,4-benzodiazepin-2-one | 0.75 g, 66% | C1(CCCCC1)C1=NC(C(N(C2=C1C=CC=C2)C)=O)NC(=O)OCC2=CC=CC=C2 | C24H27N3O3
